US05929098
The 2-trifluoromethyl-4-methyl-4-ethyl-5-chloro-5-(dichloromethyl)oxazoline hydrochloride prepared in the preceding step was dissolved in a mixture of 80 mL methanol, 3.2 mL of water, and 8.3 mL of concentrated hydrochloric acid, warmed to 50° C. and stirred at that temperature overnight. The crude reaction mixture was cooled and poured into ice/water/ethyl ether mixture. The organic phase was extracted once with water. The combined aqueous layers were washed once with ethyl ether, neutralized with saturated aqueous sodium bicarbonate and extracted with twice with ethyl ether. The combined ether layers were then washed with water, brine, dried over anhydrous magnesium sulfate, treated with activated charcoal and filtered through celite. Anhydrous hydrogen chloride was bubbled into the resulting clear solution. The resulting white solid was filtered and dried, yielding 8.1 g 3-amino-1,1-dichloro-3-methyl-2-pentanone hydrochloride as a white solid. This reaction was repeated using 168.3 g (0.87 mole) of N-[3-(3-methyl-1-pentynyl)]trifluoroacetamide, 155 g (2.2 mole) of chlorine followed by acid hydrolysis to yield 99.7 g (52%) 3-amino-1,1-dichloro-3-methyl-2-pentanone hydrochloride (1H-NMR, (DMSO-d6) 8.95(3,bs); 7.55(1,s); 2.25-1.85(2,m); 1.65(3,s); 0.85(3,t)).

reactant | 2-trifluoromethyl-4-methyl-4-ethyl-5-chloro-5-(dichloromethyl)oxazoline hydrochloride | Cl.FC(C=1OC(C(N1)(CC)C)(C(Cl)Cl)Cl)(F)F
solvent | methanol | 80 mL | CO | CH4O
solvent | water | 3.2 mL | O | H2O
solvent | hydrochloric acid | 8.3 mL | Cl | ClH
product | 3-amino-1,1-dichloro-3-methyl-2-pentanone hydrochloride | 8.1 g | Cl.NC(C(C(Cl)Cl)=O)(CC)C | InChI=1S/C6H11Cl2NO.ClH/c1-3-6(2,9)4(10)5(7)8;/h5H,3,9H2,1-2H3;1H
